US04952591
N-(4-Ethoxyphenyl)-N'-[3-(3-piperidinomethylphenoxy)propyl]urea
The mixture of 3-(3-piperidinomethylphenoxy)propylamine (4.7 g) and ethyl N-(4-ethoxyphenyl)carbamate (4.0 g) in 3-methoxy-2-butanol (20 ml) was refluxed for 6 hours and then concentrated under reduced pressure The resulting residue was dissolved in dichloromethane, washed with water, diluted hydrochloric acid solution, saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution successively and dried over magnesium sulfate. After removal of the solvent under reduced pressure, the resulting residue was purified by silica gel flash column chromatography to give the precipitate (0.9 g; yield 11.4 %). This precipitate was recrystallized from ethanol to give the title compound (0.5 g), mp 109°-111 ° C.

reactant | 3-(3-piperidinomethylphenoxy)propylamine | 4.7 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | ethyl N-(4-ethoxyphenyl)carbamate | 4.0 g | C(C)OC1=CC=C(C=C1)NC(OCC)=O | C11H15NO3
solvent | 3-methoxy-2-butanol | 20 ml | COC(C(C)O)C | C5H12O2
product | N-(4-Ethoxyphenyl)-N'-[3-(3-piperidinomethylphenoxy)propyl]urea | 0.5 g, yield 11.4 % | C(C)OC1=CC=C(C=C1)NC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C24H33N3O3
